US06320050B1
A solution of 4-bromomethyl-benzoic acid (4.0 g, 18.6 mmol) in acetonitrile (186 mL) was treated with a solution of sodium cyanide (1.0 g, 20.4 mmol) and sodium hydroxide (0.74 g, 18.6 mmol) in water (24 mL). The reaction mixture was heated at reflux for 2 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The resulting solution was washed with chloroform (1×50 mL). The aqueous layer was acidified to pH=3 with a 1N aqueous hydrochloric acid solution. The aqueous layer was extracted with a solution of chloroform/methanol (9:1, 3×100 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 4-cyanomethyl-benzoic acid (0.79 g, 26.3%) as a white solid: mp 193-195° C.; EI-HRMS m/e calcd for C9H7NO2 (M+) 161.0476, found 161.0483.

reactant | 4-bromomethyl-benzoic acid | 18.6 mmol, 4.0 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | sodium cyanide | 20.4 mmol, 1.0 g | [C-]#N.[Na+]
reactant | sodium hydroxide | 18.6 mmol, 0.74 g | [OH-].[Na+]
solvent | acetonitrile | 186 mL | C(C)#N | C2H3N
solvent | water | 24 mL | O | H2O
product | 4-cyanomethyl-benzoic acid | 0.79 g, 26.3% | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
